US07977358B2
B] 5-Cyclopropyl-3-pyridin-3-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid methyl ester
A solution of gave 3-cyclopropyl-3-oxo-2-(pyridine-3-carbonyl)-propionic acid methyl ester (326 mg, 1.25 mmol) and 3-(trifluoromethyl)phenylhydrazine (220 mg, 1.12 mmol) in 2 ml acetic acid was stirred 20 h at room temperature. The reaction mixture was evaporated, the residue treated with EtOAc:n-heptane 1:1 and filtered off. The filtrate was concentrated in vacuo and chromatographed (amino-phase silica gel, EtOAc:n-heptane 1:1) to yield the title compound as a light yellow gum (37 mg, 8%). MS: 388.3 (MH+).

reactant | 3-cyclopropyl-3-oxo-2-(pyridine-3-carbonyl)-propionic acid methyl ester | 1.25 mmol, 326 mg | COC(C(C(=O)C1CC1)C(=O)C=1C=NC=CC1)=O | C13H13NO4
reactant | 3-(trifluoromethyl)phenylhydrazine | 1.12 mmol, 220 mg | FC(C=1C=C(C=CC1)NN)(F)F | C7H7F3N2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 5-Cyclopropyl-3-pyridin-3-yl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid methyl ester | 37 mg, 8% | COC(=O)C=1C(=NN(C1C1CC1)C1=CC(=CC=C1)C(F)(F)F)C=1C=NC=CC1 | C20H16F3N3O2
